US09260425B2
A mixture of 1.356 g (3.60 mmol) of 5-bromo-3-(6-fluoropyridin-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine, 3.445 g, (16.80 mmol) of 3-pyridineboronic acid pinacol ester and 0.457 g (0.560 mmol) of 1,1′bis(diphenylphosphino)ferrocenepalladium (II) chloride and 7.2 ml of 1.0 M of Cesium Carbonate in water in 60 ml of Acetonitrile was degassed an heated in a sealed glass vial at 95° C. for 2 hours. The mixture was filtered through Celite and the filtrate concentrated in vacuum. The residue was redissolved in dichloromethane, the organic layer washed with water, brine, dried over MgSO4 and concentrated. The crude residue was purified on a 80 g silica gel column eluting with 3-4% of methanol in dichloromethane. Pooled fractions were concentrated. The residue was triturated with 7 ml of cold methanol and filtered to give 3-(6-Fluoropyridin-2-yl)-5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine. Yield 1.147 g (85%). ESI MS m/z=376.1 (M+1)

reactant | 5-bromo-3-(6-fluoropyridin-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | 3.60 mmol, 1.356 g | BrC=1C=C2C(=CN1)N(N=C2C2=NC(=CC=C2)F)C2OCCCC2 | C16H14BrFN4O
reactant | 3-pyridineboronic acid pinacol ester | 16.80 mmol | N1=CC(=CC=C1)B1OC(C)(C)C(C)(C)O1 | C11H16BNO2
reactant | Cesium Carbonate | 1.0 M, 7.2 ml | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | O | H2O
solvent | Acetonitrile | 60 ml | C(C)#N | C2H3N
catalyst | 1,1′bis(diphenylphosphino)ferrocenepalladium (II) chloride | 0.560 mmol, 0.457 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(6-Fluoropyridin-2-yl)-5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | FC1=CC=CC(=N1)C1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)C2OCCCC2 | C21H18FN5O
